US06441017B1
Step D: 4-Bromo-1-(tert-butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy) naphthalene
A mixture of 4-bromo-1-tert-butoxycarbonylaminonaphth-7-ol, as described above in Step C, (1.62 g, 4.80 mmol), tert-butyldimethylsilyl chloride (1.09 g, 7.20 mmol), and imidazole (0.82 g, 12 mmol), was stirred in dry DMF (40 mL) at ambient temperature for 18 hours. The solvent was removed under reduced pressure, and the residue was partitioned between H2O (100 mL) and Et2O (200 mL). The organic extract was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with CH2Cl2—50% hexane to yield the desired product as a pale solid.

reactant | 4-bromo-1-tert-butoxycarbonylaminonaphth-7-ol | BrC1=CC=C(C2=CC(=CC=C12)O)NC(=O)OC(C)(C)C | C15H16BrNO3
reactant | tert-butyldimethylsilyl chloride | 4.80 mmol, 1.62 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 12 mmol, 0.82 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-(tert-butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy) naphthalene | BrC1=CC=C(C2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C21H30BrNO3Si
